US04579585
N'-[4(1-chloromethyl-ethenyl)phenyl]-N-methyl urea
To a solution of 13.85 g (0.06 Mol) N'-[4(1-dimethylaminomethyl-ethenyl)phenyl]-N-methyl urea in 180 ml absolute CH2Cl2 are added dropwise, at 20°-30°, within 20 minutes, 9.4 g (0.06 Mol) chloroformic acid phenyl ester in 50 ml absolute CH2Cl2.

reactant | N'-[4(1-dimethylaminomethyl-ethenyl)phenyl]-N-methyl urea | 0.06 Mol, 13.85 g | CN(C)CC(=C)C1=CC=C(C=C1)NC(NC)=O | C13H19N3O
reactant | chloroformic acid phenyl ester | 0.06 Mol, 9.4 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | CH2Cl2 | 180 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N'-[4(1-chloromethyl-ethenyl)phenyl]-N-methyl urea | ClCC(=C)C1=CC=C(C=C1)NC(NC)=O | C11H13ClN2O
